US04829069
4-[(4-Methylpyridin-2-yl)methylthio]-quinazoline
13 ml of 28% methanolic solution of sodium methoxide were added to a solution of 5.0 g of 4-mercaptoquinazoline and 5.5 g of 2-chloromethyl-4-methylpyridine hydrochloride in 50 ml of methanol and stirred at room temperature for 5 hours. A reaction solution was poured into water and extracted with chloroform. The chloroform layer was washed with an aqueous sodium carbonate solution, dried over sodium sulfate and distilled off under reduced pressure. The residue was purified by silica gel column chromatography. The fraction eluted with 10% ethyl acetate/chloroform was crystallized from isopropyl ether to obtain 1.84 g (22.3%) of the title compound.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 4-mercaptoquinazoline | 5.0 g | SC1=NC=NC2=CC=CC=C12 | C8H6N2S
reactant | 2-chloromethyl-4-methylpyridine hydrochloride | 5.5 g | Cl.ClCC1=NC=CC(=C1)C
reactant | water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 4-[(4-Methylpyridin-2-yl)methylthio]-quinazoline | 1.84 g, 22.3% | CC1=CC(=NC=C1)CSC1=NC=NC2=CC=CC=C12 | C15H13N3S
